US07256198B2
Step 5: 8′-{[(2S)-2-(Methoxymethyl)pyrrolidinyl]sulfonyl}-3′,4′-dihydrospiro(1,3-dioxane-2,10′ (2′H)-pyrimido(1,2-a)indole)
A mixture of 3-[5′-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′ (2′H)-yl]propanenitrile (4.48 g, 10.3 mmol), and wet Raney nickel (4.1 g) in 2M EtOH.NH3 (100 mL) and THF (100 mL) was hydrogenated in a Parr Hydrogenation Bottle (2L) at 45 lb/in2 hydrogen for 24 hours. The Raney nickel was removed by filtration through Sulka Floc. The filtrate was poured into a steel pressure vessel and heated to 135° C. for 51 hours. The reaction was cooled and the solvents were removed. The residue was taken up in CH2Cl2 and combined with silica gel. The solvent was removed and the adsorbate was flash chromatographed (Biotage KP silica gel, and step gradient of CH2Cl2/CH3OH/NH4OH (98.5/1.0/0.5-98/01.5/0.5)) to give the title compound as a white solid (0.63 g, 14.5% yield). Anal: Calc'd. for C20H27N3O5S: C, 56.99; H, 6.46; N, 9.97; Found: C, 56.80, H, 6.45, N, 9.87; NMR (400 MHz, DMSO-d6): consistent. MS: (ES+) m/z 422 [M+H]. Opt. Rotation: 94.1(calculated) at 25° C. in CH3OH (1% concentration), wavelength 589; m.p. 129-130°.

reactant | 3-[5′-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′ (2′H)-yl]propanenitrile | 10.3 mmol, 4.48 g | COC[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(N(C2=CC1)CCC#N)=O)OCCCO3 | C20H25N3O6S
reactant | NH3 | 100 mL | N | H3N
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 4.1 g | [Ni] | Ni
solvent | EtOH | 2M | CCO | C2H6O
product | 8′-{[(2S)-2-(Methoxymethyl)pyrrolidinyl]sulfonyl}-3′,4′-dihydrospiro(1,3-dioxane-2,10′ (2′H)-pyrimido(1,2-a)indole) | 0.63 g, 14.5% yield | COC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CCCN4)OCCCO3 | C20H27N3O5S
